US05405861
To thionyl chloride (2.0 ml) was added at 0° C. 3-hydroxymethyl-4-methyl-4H-1,2,4-triazole (0.15 g), and the mixture was refluxed for 1.5 hour. The reaction mixture was concentrated under reduced pressure, to which was added diethyl ether. Resulting crystals were collected by filtration and dissolved in ethanol, to which was added diethyl ether for recrystallization to afford 3-chloromethyl-4-methyl-4H-1,2,4-triazole hydrochloride (0.22 g) as colorless prisms, m.p. 96°-97° C.

reactant | thionyl chloride | 2.0 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-hydroxymethyl-4-methyl-4H-1,2,4-triazole | 0.15 g | OCC1=NN=CN1C | C4H7N3O
product | 3-chloromethyl-4-methyl-4H-1,2,4-triazole hydrochloride | 0.22 g | Cl.ClCC1=NN=CN1C | InChI=1S/C4H6ClN3.ClH/c1-8-3-6-7-4(8)2-5;/h3H,2H2,1H3;1H
